US07851473B2
4-(4-Phenyl-1,3-thiazol-2-yl)-N-pyrazin-2-ylpiperazine-1-carboxamide
A solution of 2,2,2-trichloroethyl pyrazin-2-ylcarbamate (200 mg, 0.545 mmol), 1-(4-phenyl-1,3-thiazol-2-yl)piperazine (181 mg, 0.739 mmol), diisopropylethylamine (0.129 ml, 0.739 mmol) and dimethylsulfoxide (4 ml) was stirred at 70° C. for 12 hours, the reaction mixture was poured into water and a solid was collected by filtration and washed with water. This was recrystallized from a mixed solvent of hexane and ethyl acetate to obtain the desired product (190 mg, 95.4%) as a solid. mp 134-135° C.

reactant | 2,2,2-trichloroethyl pyrazin-2-ylcarbamate | 0.545 mmol, 200 mg | N1=C(C=NC=C1)NC(OCC(Cl)(Cl)Cl)=O | C7H6Cl3N3O2
reactant | 1-(4-phenyl-1,3-thiazol-2-yl)piperazine | 0.739 mmol, 181 mg | C1(=CC=CC=C1)C=1N=C(SC1)N1CCNCC1 | C13H15N3S
reactant | diisopropylethylamine | 0.739 mmol, 0.129 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethylsulfoxide | 4 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-(4-Phenyl-1,3-thiazol-2-yl)-N-pyrazin-2-ylpiperazine-1-carboxamide | 190 mg, 95.4% | C1(=CC=CC=C1)C=1N=C(SC1)N1CCN(CC1)C(=O)NC1=NC=CN=C1 | C18H18N6OS
